US05656762
A solution of 4 g 4-methylbenzamidine hydrochloride in 60 mL ammonium hydroxide was treated with 4.0 g with dihydroxyacetone and 4.8 g ammonium chloride. The reaction mixture was heated to 90° C. for 4 hours in a sealed tube. On cooling to room temperature a the solid formed was collected by filtration to yield 3.0 g 2-(4-methylphenyl)-5-hydroxymethyl-imidazole which was convened according to the procedure described in Example VII to yield 2-(4-methylphenyl-4(5)-[(4-(2-pyrimidinyl)-piperazin-1-yl)-methyl]-imidazole (Compound 133), m.p. 178°-180° C.

reactant | 4-methylbenzamidine hydrochloride | 4 g | Cl.CC1=CC=C(C(=N)N)C=C1
reactant | dihydroxyacetone | OC(C(C)=O)O | C3H6O3
reactant | ammonium chloride | 4.8 g | [Cl-].[NH4+]
solvent | ammonium hydroxide | 60 mL | [OH-].[NH4+]
product | 2-(4-methylphenyl)-5-hydroxymethyl-imidazole | 3.0 g | CC1=CC=C(C=C1)C=1NC(=CN1)CO | C11H12N2O
